US08466289B2
Synthesis of the Title Compound; 2-Hydroxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3, 2-a]pyridin-8-yl]-amide (8A)
2-Benzyloxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (0.05 g, 0.0001 mol) was added to a stirred solution of BF3.EtO2 (0.34 g, 0.002 mol) in ethane thiol (0.05 g, 0.001 mol) at 0° C. under nitrogen atmosphere. The resulting mixture was stirred at room temperature overnight. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was quenched with saturated NaHCO3 solution and extracted with ethylacetate. The organic layer was washed with water, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (2-3% MeOH in DCM) afforded 11 mg of the product (27% yield).

reactant | 2-Benzyloxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 0.0001 mol, 0.05 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2C(C2)COCC2=CC=CC=C2 | C25H25FIN3O5S
reactant | BF3 | B(F)(F)F | BF3
reactant | ethane thiol | 0.001 mol, 0.05 g | C(C)S | C2H6S
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-Hydroxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3, 2-a]pyridin-8-yl]-amide | 11 mg, 27% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2C(C2)CO | C18H19FIN3O5S
